US05554607
1-Ethyl-3-isobutyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 5.7 g of isobutyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved by flash chromatography on silica gel (methylene chloride). Title compound (2.3 g) was obtained as an oil. Anal. Calcd. for. C9H16N2O S: C, 53.97; H, 8.05; N, 13.99. Found: C, 54.01; H, 8.21; N, 14.00) Mass spectrum (El, M.+) m/z 200.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | isobutyl-isothiocyanate | 5.7 g | C(C(C)C)N=C=S | C5H9NS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-isobutyl-2-thioxo-imidazolidin-4-one | 2.3 g | C(C)N1C(N(C(C1)=O)CC(C)C)=S | C9H16N2OS
